US07166628B2
Synthesis of 1-[5-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-2,3-dimethyl-phenyl]-1H-1,2,3-triazole-4-carboxylic acid methyl ester
A mixture of 0.112 g (0.252 mmol) of 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4,5-dimethyl-benzamide and 0.069 mL (0.756 mmol) of methyl propiolate was stirred in 0.5 mL of DMA at 110° C. overnight. The vial was cooled to room temperature, and the contents were poured into stirring water. The precipitate was collected and chromatographed (10–60% EtOAc in hexanes). Fractions containing predominantly the major product were collected and further purified by precipitating from dichloromethane with hexanes to provide 57 mg of a white powder. The filtrate was combined with the mixed fractions from the first chromatography, and the resulting mixture was chromatographed again to provide 22 mg of the title compound as a pale yellow solid for a total yield of 79 mg (0.149 mmol; 59%), mp: 199° C. ESI MS (m/z 528, 100, M−H).

reactant | 3-azido-N-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenyl)-4,5-dimethyl-benzamide | 0.252 mmol, 0.112 g | N(=[N+]=[N-])C=1C=C(C(=O)NC2=C(C(=CC(=C2)C(C)(C)C)NS(=O)(=O)C)OC)C=C(C1C)C | C21H27N5O4S
reactant | methyl propiolate | 0.756 mmol, 0.069 mL | C(C#C)(=O)OC | C4H4O2
reactant | water | O | H2O
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | 1-[5-(5-tert-butyl-3-methanesulfonylamino-2-methoxy-phenylcarbamoyl)-2,3-dimethyl-phenyl]-1H-1,2,3-triazole-4-carboxylic acid methyl ester | 57 mg | COC(=O)C=1N=NN(C1)C1=C(C(=CC(=C1)C(NC1=C(C(=CC(=C1)C(C)(C)C)NS(=O)(=O)C)OC)=O)C)C | C25H31N5O6S
